US07897623B2
To a solution of N-(4-chloro-3-((trifluoromethyl)phenyl)-N-(4-(3-methylcarbamoylphenyl)carboxyaminophenyl) urea (0.14 g, 0.48 mmol), 3-methylcarbamoylaniline (0.080 g, 0.53 mmol), HOBT-H2O (0.14 g, 1.07 mmol), and N-methylmorpholine (0.5 mL, 1.07 mmol) in DMF (3 mL) at 0° C. was added EDCI.HCl (0.10 g, 0.53 mmol). The resulting mixture was allowed to warm to room temp. and was stirred overnight. The resulting mixture was treated with water (10 mL), and extracted with EtOAc (25 mL). The organic phase was concentrated under reduced pressure. The resulting yellow solids were dissolved in EtOAc (3 mL) then filtered through a pad of silica gel (17 g, gradient from 70% EtOAc/30% hexane to 10% MeOH/90% EtOAc) to give N-(4-chloro-3-((trifluoromethyl)phenyl)-N-(4-(3-methylcarbamoylphenyl) carbamoylphenyl) urea as a white solid (0.097 g, 41%): mp 225-229; TLC (100% EtOAc) Rf 0.23.

reactant | 4-chloro-3-((trifluoromethyl)phenyl)-N-(4-(3-methylcarbamoylphenyl)carboxyaminophenyl) urea | 0.48 mmol, 0.14 g | ClC1(CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C(F)(F)F)NC(=O)O)C1=CC(=CC=C1)C(NC)=O | C23H20ClF3N4O4
reactant | 3-methylcarbamoylaniline | 0.53 mmol, 0.080 g | CNC(=O)C=1C=C(N)C=CC1 | C8H10N2O
reactant | HOBT H2O | 1.07 mmol, 0.14 g | C=1C=CC2=C(C1)N=NN2O.O
reactant | N-methylmorpholine | 1.07 mmol, 0.5 mL | CN1CCOCC1 | C5H11NO
reactant | EDCI.HCl | 0.53 mmol, 0.10 g | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | 4-chloro-3-((trifluoromethyl)phenyl)-N-(4-(3-methylcarbamoylphenyl) carbamoylphenyl) urea | 0.097 g, 41% | ClC1(CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C(F)(F)F)C(NC1=CC(=CC=C1)C(NC)=O)=O | C23H20ClF3N4O3
